US08017782B2
(c). 3-Bromo-4-(2-methoxy-ethylamino)-5-(morpholine-4-sulfonyl)-benzoic acid
A solution of 3-Bromo-4-fluoro-5-(morpholine-4-sulfonyl)-benzoic acid (500 mg) in 2-methoxy-ethylamine was heated at 80° C. for 3 h. The mixture was dissolved in 2 M aq. NaOH and washed with EtOAc. The aqueous layer was acidified with 2 M HCl and extracted with EtOAc. The organic layer was dried (Na2SO4) and concentrated in vacuo. Yield: 575 mg.

reactant | 3-Bromo-4-fluoro-5-(morpholine-4-sulfonyl)-benzoic acid | 500 mg | BrC=1C=C(C(=O)O)C=C(C1F)S(=O)(=O)N1CCOCC1 | C11H11BrFNO5S
solvent | 2-methoxy-ethylamine | COCCN | C3H9NO
solvent | NaOH | 2 M | [OH-].[Na+]
product | 3-Bromo-4-(2-methoxy-ethylamino)-5-(morpholine-4-sulfonyl)-benzoic acid | BrC=1C=C(C(=O)O)C=C(C1NCCOC)S(=O)(=O)N1CCOCC1 | C14H19BrN2O6S
